Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with a past medical history 
significant for dejenerative disk disease and obesity who 
presenting with chest pressure, dyspnea on exertion, and was 
found to have extensive bilateral PE.  

Patient reports about one week of consistent exertional dyspnea 
that he noticed while walking up one flight of stairs. He also 
noticed he had difficulty exerting himself while copping 
branches at his property. Patient also endorses intermittent 
substernal chest pressure, non radiating for about one week as 
well. He has never had symptoms like these. He denies symptoms 
at rest. Of note patient had a recent viral syndrome 
approximately 3 weeks ago, and has felt fatigued since then. 
Everyone at work was sick with the flu and he assumes that is 
what he had as well.  

Patient came into the ED because the symptoms had not subsided 
for one week and he is going on vacation with a group of friends 
to the ___ on ___ and so he wanted to 
come in to maybe get antibiotics before he went away on 
vacation. Per patient, he would not have come to the ED had he 
not been going on vacation soon.  

In the ED, initial VS were 97.6 ___ 18 98% RA  
Labs showed Troponin 0.04, 0.05, D-Dimer 4284, CBC WNL, Chem-7 
WNL, BNP 280  
Exam: EKG: Sinus tachycardia, HR 116, NA, NI, <1mm STE V2, 
terminal P wave inversion in V1, Qwave in III. Bedside echo: 
Good contractility, no pericardial effusion.  
Imaging showed extensive bilateral PE  
Received  
 ___ 14:26 PO Aspirin 324 mg  
 ___ 14:55 SL Nitroglycerin SL .4 mg  
 ___ 15:01 SL Nitroglycerin SL .4 mg  
 ___ 19:05 IV Heparin drip  
 
MASCOT was consulted and recommended no tPA at this time. 
Recommended echo for further evaluation.  

Decision was made to admit to medicine for further management.  

On arrival to the floor, patient denies any chest pain, 
shortness of breath, calf tenderness or swelling. Patient quite 
surprised that all of this is happening to him, as he did not 
feel that unwell. Has not had his screening colonoscopy, 
planning on doing it when he returned from vacation. No other 
complaints.  

REVIEW OF SYSTEMS:  
(+) as above 
(-) Fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
 
All other 10-system review negative in detail.
 
Past Medical History:
BPH  
Degenerative disk disease  
Obesity  

 
Social History:
___
Family History:
Father - Lung cancer (asbestos exposure). Cancer course 
complicated by DVTs. Died at age ___  
Mother - died of old age at ___  
Two brothers, one sister - all in good health.  
One daughter - good health. Age ___.  
No history of blood clots or sudden death.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 97.6 157/95 104 16 94% RA  
GENERAL: NAD, well appearing, looks younger than stated age. 
Pleasant.  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: CN II-XII intact. ___ in upper and lower extremities.  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes. Tattoo in left calf.  

DISCHARGE PHYSICAL EXAM
=======================
VS: 97.9 PO 126 / 76 93 18 96 Ra  
GENERAL: NAD, well appearing
HEENT: AT/NC, EOMI, PERRL, MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes or crackles breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: CN II-XII intact. ___ in upper and lower extremities. 
Ambulating down the hall without difficulty
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes. Tattoo in left calf.  

 
Pertinent Results:
ADMISSION LABS
==============
___ 01:36PM BLOOD WBC-7.4 RBC-5.28 Hgb-14.9 Hct-45.3 MCV-86 
MCH-28.2 MCHC-32.9 RDW-11.9 RDWSD-37.2 Plt ___
___ 01:36PM BLOOD Neuts-67.4 ___ Monos-7.1 Eos-1.2 
Baso-0.4 Im ___ AbsNeut-5.00 AbsLymp-1.74 AbsMono-0.53 
AbsEos-0.09 AbsBaso-0.03
___ 01:36PM BLOOD ___ PTT-30.2 ___
___ 01:36PM BLOOD Plt ___
___ 01:36PM BLOOD Glucose-115* UreaN-12 Creat-0.8 Na-142 
K-4.1 Cl-105 HCO3-23 AnGap-18
___ 01:36PM BLOOD CK(CPK)-133
___ 01:36PM BLOOD CK-MB-4 proBNP-280*
___ 01:36PM BLOOD cTropnT-0.04*
___ 06:50PM BLOOD cTropnT-0.05*
___ 12:11AM BLOOD CK-MB-4 cTropnT-0.04*
___ 07:20AM BLOOD CK-MB-4 cTropnT-<0.01
___ 01:36PM BLOOD Calcium-9.2 Phos-3.3 Mg-2.1
___ 01:41PM BLOOD D-Dimer-4284*

IMAGES
======
TTE (___): IMPRESSION: Right ventricular cavity dilation with 
free wall hypokinesis. Normal left ventricular cavity size with 
normal regional and low normal global systolic function. Mild 
pulmonary artery systolic hypertension. Mildly dilated thoracic 
aorta. 

___ U/S (___):
Occlusive DVT in the distal left femoral vein and paired 
gastrocnemius veins.  No evidence of right-sided DVT. 
 
CTA (___):  
1. Extensive bilateral pulmonary emboli with involvement of both 
distal left and right main pulmonary arteries, as well as lobar, 
segmental, and subsegmental pulmonary arterial branches in all 
segments of the lungs.  
2. Flattening of the intraventricular septum and dilatation of 
the right ventricle compatible with right heart strain.  
3. Mild enlargement of the main and right pulmonary arteries, 
compatible with pulmonary arterial hypertension.  
4. Focal opacities at the bilateral lower lobes concerning for 
pulmonary infarcts with small left pleural effusion.  

CXR (___):  
Retrocardiac patchy opacity, possibly atelectasis, and probable 
trace left pleural effusion. No pulmonary edema or focal 
consolidation.  

MICRO
=====
___ Urine Culture: negative

DISCHARGE LABS
===============
___ 07:20AM BLOOD Neuts-61.9 ___ Monos-8.7 Eos-2.5 
Baso-0.5 Im ___ AbsNeut-4.68 AbsLymp-1.97 AbsMono-0.66 
AbsEos-0.19 AbsBaso-0.04
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD ___ PTT-31.4 ___
___ 08:00AM BLOOD Glucose-119* UreaN-12 Creat-1.0 Na-141 
K-4.2 Cl-100 HCO3-27 AnGap-18
___ 08:00AM BLOOD Calcium-9.2 Phos-3.1 Mg-2.___ male with a past medical history significant for 
dejenerative disk disease, BPH, obesity who presented with 
dyspnea on exertion x 1 week and intermittent chest pressure, 
found have extensive bilateral PE with evidence of right heart 
strain and left ___ DVTs.

# Acute Submassive bilateral PE: Extensive, bilateral, 
unprovoked PE w/ bilateral pulmonary infarcts and evidence of 
right heart strain but no hemodynamic instability. ___ 
ultrasounds are notable for occlusive DVT in the distal left 
femoral vein and paired gastrocnemius veins. Clots are likely 
unprovoked: no hx recent travel, hospitalizations, or 
surgerires. However, pt has not yet had screening colonoscopy 
but denies weight loss, mother had lung cancer and was smoker, 
no family hx of clotting. No arrythmia on telemetry. Pt was 
initially started on a heparin drip and transitioned to warfarin 
with a lovenox bridge. Dyspnea on exertion persisted but 
improved over hospitalization, ambulatory O2 sat 93% on 
discharge.
- follow up with PCP (new PCP at ___ requested)
- ___ Anticoagulation referral made and he will follow with them 
for anticoagulation management

# Type 2 NSTEMI: In setting of PEs.  mild troponemia of 0.05 
(with stable MB 4), which down-trended to 0.01. No ischemic 
changes noted on EKG. Pt denied CP. Likely troponemia was ___ 
right heart strain. 

# Left ___ DVTs. U/S ___ shows occlusive femoral clot and paired 
gastrocnemius veins. B/l extremities WWP without TTP or 
swelling. Pt was anticoagulated as above

TRANSITIONAL ISSUES
===================
[] STARTED warfarin 5 mg QD, follow up in ___ clinic 
regarding adjusting the dose
[] STARTED lovenox while sub-therapeutic on Coumadin at 130mg 
BID.
[] Patient is interested in NOACs, please consider changing if 
weight permits 
[] F/u with hematology for coagulopathy work up and duration of 
anticoagulation
[] Pt is due for outpatient cancer screening including 
colonoscopy, initiate prostate screening discussion with 
outpatient PCP 
[] F/u signs of pulmonary arterial hypertension seen on 
CTA/repeat TTE 
[] Repeat ambulatory O2 sat (93% on discharge)
[] Given Echo findings of R ventricle with wall hypokinesis and 
dilation, would recommend repeat echo in ___ months to assess 
for interval change.

# CODE: Full 
# CONTACT: ___ (wife/HCP): ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Tamsulosin 0.4 mg PO QHS 
3. Fexofenadine 60 mg PO DAILY:PRN hay fever 
4. Glucosamine (glucosamine sulfate) 500 mg oral DAILY 
5. MegaRed Omega-3 Krill Oil (krill-om-3-dha-epa-phospho-ast) 
Dose is Unknown  oral DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 130 mg SC Q12H 
RX *enoxaparin 150 mg/mL 150 mg SC twice a day Disp #*20 Syringe 
Refills:*0 
2.  Warfarin 5 mg PO DAILY16 
RX *warfarin 2.5 mg 2 tablet(s) by mouth every evening Disp #*20 
Tablet Refills:*0 
3.  Fexofenadine 60 mg PO DAILY:PRN hay fever  
4.  Finasteride 5 mg PO DAILY  
5.  Glucosamine (glucosamine sulfate) 500 mg oral DAILY  
6.  MegaRed Omega-3 Krill Oil (krill-om-3-dha-epa-phospho-ast) 
Dose is Unknown  oral DAILY  
7.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Submassive pulmonary emboli
Type II Non-ST Elevation Myocardial Infarctioin
Left lower extremity deep vein thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to be part of your care.

You were admitted to the hospital because you were having one 
week of feeling short of breath with activity.

In the hospital you were found to have blood clots in your lungs 
and in the veins of your left leg. 

You were started on a blood thinning medication ("warfarin" or 
"Coumadin") during your stay. You will likely need to stay on a 
blood thinning medication indefinitely. 

You will need to follow up with your new primary care doctor as 
described below, as well as a new hematologist in the coming 
months.

If you experience any worsening shortness of breath, chest pain, 
leg swelling/pain/tingling/loss of sensation then please seek 
medical attention. 

We wish you the best,
Your ___ Team 
 
Followup Instructions:
___